US09428510B2
A solution of 3 g (14.3 mmol) of 2-amino-5-cyano-6-(methylthio)nicotinic acid in 30 ml of diphenyl ether is stirred at 255° C. for 60 hours. After returning to room temperature, 60 ml of cyclohexane is added and the reaction medium is triturated for 30 minutes. The solid formed is filtered and then rinsed thoroughly with cyclohexane. The solid is redissolved in ethyl acetate and then the organic phase is washed with water, dried on magnesium sulfate, filtered and then evaporated to yield 1.32 g (55%) of 6-amino-2-(methylthio)nicotinonitrile in the form of a brown powder.

reactant | 2-amino-5-cyano-6-(methylthio)nicotinic acid | 14.3 mmol, 3 g | NC1=C(C(=O)O)C=C(C(=N1)SC)C#N | C8H7N3O2S
reactant | cyclohexane | 60 ml | C1CCCCC1 | C6H12
solvent | diphenyl ether | 30 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 6-amino-2-(methylthio)nicotinonitrile | 1.32 g, 55% | NC1=NC(=C(C#N)C=C1)SC | C7H7N3S
